US08304036B2
3.5 ml (20.6 mmol) of TMP are initially introduced at −20° C. in THF, and 7.7 ml (19.3 mmol, 2.5 M in hexane) of n-HexLi are metered in. After 25 min at this temperature, a solution of 5.5 g (16.0 mmol) of 2-(3-fluoro-4′-propylbiphenyl-4-yl)selenophene in 50 ml of THF is added. When the addition is complete, the batch is warmed to RT over the course of 45 min and left at this temperature for 20 min. The solution is cooled to −70° C., and 13.6 g (95.8 mmol) of methyl iodide are added. The reaction mixture is warmed to RT and stirred for 20 h. The solution is diluted with MTBE, and sat. ammonium chloride soln. and conc. ammonia soln. are added successively. The mixture is stirred vigorously for a few minutes, and the organic phase is separated off. The aqueous phase is extracted with MTBE, and the combined organic phases washed successively with water, 2 N hydrochloric acid and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The crude product is purified by chromatography. The further purification is carried out by recrystallisation from n-heptane. 2-(3-Fluoro-4′-propylbiphenyl-4-yl)-5-methylselenophene is obtained as a solid having an m.p. of 97° C.

reactant | n-HexLi | 19.3 mmol, 2.5 M, 7.7 ml | C(CCCCC)[Li]
reactant | 2-(3-fluoro-4′-propylbiphenyl-4-yl)selenophene | 16.0 mmol, 5.5 g | FC=1C=C(C=CC1C=1[Se]C=CC1)C1=CC=C(C=C1)CCC | C19H17FSe
reactant | methyl iodide | 95.8 mmol, 13.6 g | CI | CH3I
reactant | ammonia | N | H3N
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | MTBE | CC(C)(C)OC | C5H12O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-(3-Fluoro-4′-propylbiphenyl-4-yl)-5-methylselenophene | FC=1C=C(C=CC1C=1[Se]C(=CC1)C)C1=CC=C(C=C1)CCC | C20H19FSe
